US07576215B2
1-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)BENZYL]-1H-PYRROLE-2-CARBOXYLIC ACID
Prepared by NaOH hydrolysis of methyl 1-[4-({3-[3-Benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl) benzyl]-1H-pyrrole-2-carboxylate; MS (ESI) m/z 607; MS (ESI) m/z 605.

reactant | NaOH | [OH-].[Na+]
reactant | methyl 1-[4-({3-[3-Benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl) benzyl]-1H-pyrrole-2-carboxylate | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(CN3C(=CC=C3)C(=O)OC)C=C2)C=CC1)C(F)(F)F | C37H27F3N2O4
product | 1-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)BENZYL]-1H-PYRROLE-2-CARBOXYLIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(CN3C(=CC=C3)C(=O)O)C=C2)C=CC1)C(F)(F)F | C36H25F3N2O4
